US07179812B2
{2-[2-(2-Fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-yl}-methanol (0.100 g, 0.35 mmol) is dissolved in anhydrous tetrahydrofuran (THF) (3 ml) followed by the addition of sodium tert-butoxide (NaOtBu) (0.041 g, 0.42 mmol). After stirring for 15 min at r.t. 2-chloro-5-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidine (0.075 g, 0.32 mmol) is added slowly and stirred for further 3 h at r.t. Ethyl acetate (20 ml) is added, the mixture is washed with saturated ammonium chloride (NH4Cl), dried over MgSO4 and concentrated in vacuo. After flash column chromatography (ethyl acetate/methanol 97:3) 2-{2-[2-(2-fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-5-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidine is obtained as a colorless solid. Yield 0.104 g (75%).

reactant | {2-[2-(2-Fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-yl}-methanol | 0.35 mmol, 0.100 g | FC1=C(C=CC(=C1)C(F)(F)F)C=CC=1OC=C(N1)CO | C13H9F4NO2
reactant | sodium tert-butoxide | 0.42 mmol, 0.041 g | CC(C)([O-])C.[Na+]
reactant | 2-chloro-5-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidine | 0.32 mmol, 0.075 g | ClC1=NC=C(C=N1)CCCCN1N=NC=C1 | C10H12ClN5
reactant | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-{2-[2-(2-fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-5-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidine | FC1=C(C=CC(=C1)C(F)(F)F)C=CC=1OC=C(N1)COC1=NC=C(C=N1)CCCCN1N=NC=C1 | C23H20F4N6O2
